US05763458
Proceeding as in Example 12, Step (a), but replacing 1-[4-amino-5-chloro-2-methoxyphenyl)-3-{1-[2-(methylsulfonyl)aminoethyl]piperidin-4-yl}propan-1-one with 1-(4-amino-5-chloro-2-methoxyphenyl)-5-(4-aminocarbonylpiperidin-1-yl)-pentan-1-one, and then as in Example 12, Step (b), but replacing 3,5-dimethoxybenzyl chloride with 3-methoxybenzyl chloride, gave 1-[4-amino-5-chloro-2-(5-methoxybenzyloxy)phen yl]-5-(4-aminocarbonylpiperidin-1-yl)-pentan-1-one hydrochloride, m.p. 204°-205° C.

reactant | 1-(4-amino-5-chloro-2-methoxyphenyl)-5-(4-aminocarbonylpiperidin-1-yl)-pentan-1-one | NC1=CC(=C(C=C1Cl)C(CCCCN1CCC(CC1)C(=O)N)=O)OC | C18H26ClN3O3
reactant | 3-methoxybenzyl chloride | COC=1C=C(CCl)C=CC1 | C8H9ClO
product | 1-[4-amino-5-chloro-2-(5-methoxybenzyloxy)phen yl]-5-(4-aminocarbonylpiperidin-1-yl)-pentan-1-one hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN1CCC(CC1)C(=O)N)=O)OCC1=CC=CC(=C1)OC | InChI=1S/C25H32ClN3O4.ClH/c1-32-19-6-4-5-17(13-19)16-33-24-15-22(27)21(26)14-20(24)23(30)7-2-3-10-29-11-8-18(9-12-29)25(28)31;/h4-6,13-15,18H,2-3,7-12,16,27H2,1H3,(H2,28,31);1H
